US07253286B2
4-Chloro-7-methoxyquinoline-6-carboxylic acid methylamide
After dissolving 7-methoxy-4-chloro-quinoline-6-carbonyl chloride synthesized by the method of Production Example 152-2 from 7-methoxy-4-oxo-1,4-dihydroquinoline-6-carboxylic acid (947 mg) in tetrahydrofuran (70 ml), the solution was cooled to 0° C. A 40% aqueous methylamine solution (0.4 ml) was added, and the mixture was stirred at room temperature for 30 minutes. Water was added, extraction was performed 3 times with ethyl acetate, and the organic layers were combined, washed with water and saturated brine, dried over sodium sulfate and then dried under reduced pressure to obtain the title compound (710 mg).

reactant | 7-methoxy-4-chloro-quinoline-6-carbonyl chloride | COC1=C(C=C2C(=CC=NC2=C1)Cl)C(=O)Cl | C11H7Cl2NO2
reactant | 7-methoxy-4-oxo-1,4-dihydroquinoline-6-carboxylic acid | 947 mg | COC1=C(C=C2C(C=CNC2=C1)=O)C(=O)O | C11H9NO4
reactant | methylamine | 0.4 ml | CN | CH5N
reactant | Water | O | H2O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | 4-Chloro-7-methoxyquinoline-6-carboxylic acid methylamide | 710 mg | CNC(=O)C=1C=C2C(=CC=NC2=CC1OC)Cl | C12H11ClN2O2
